US07829729B2
To a solution (60 ml) of N-tert-butyl-3-hydroxymethyl-3-nitroazetidine hydrochloride (13.50 g, 0.060 mol) prepared in the Example 3 in distilled water, 30 ml of aqueous solution of NaOH (7.173 g, 0.179 mol) was added. The resulting yellow solution was stirred for 3 hours at room temperature. The resultant was cooled to 8° C. and a chilled solution (45 ml) of sodium nitrite (NaNO2) (16.5 g, 0.239 mol) and potassium ferrocyanide (K3Fe(CN)6) (1.974 g, 0.060 mol) in distilled water was added slowly. Then, solid sodium persulphate (Na2S2O8) (17.80 g, 0.075 mol) was added in a single portion. The resulting yellow solution was warmed to room temperature as the solution gradually turned into light orange color. The solution was stirred for another 1 hour and then extracted with dichloromethane (CH2Cl2) (150 ml). The organic layer was dried with magnesium sulfate (MgSO4) and the solvent was removed via vacuum evaporation to give N-tert-butyl-3,3-dinitroazetidine (12.583 g, 0.062 mol, yield: 86.66%) as a yellow oil.

reactant | N-tert-butyl-3-hydroxymethyl-3-nitroazetidine hydrochloride | 0.060 mol, 60 ml, 13.50 g | Cl.C(C)(C)(C)N1CC(C1)([N+](=O)[O-])CO
reactant | NaOH | 0.179 mol, 7.173 g | [OH-].[Na+]
reactant | sodium nitrite | 0.239 mol, 45 ml, 16.5 g | N(=O)[O-].[Na+]
reactant | sodium persulphate | 0.075 mol, 17.80 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | potassium ferrocyanide | 0.060 mol, 1.974 g | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+].[K+]
product | N-tert-butyl-3,3-dinitroazetidine | 0.062 mol, 12.583 g, yield: 86.66% | C(C)(C)(C)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-] | C7H13N3O4
